US08476297B2
Step 3. Ethyl 1-(4-(dimethylamino)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate
A solution of ethyl 1-(4-(dimethylamino)phenyl)isoquinoline-2(1H)-carboxylate (79 mg, 0.24 mmol) in EtOH (4 mL) was stirred with 10% Pd/C (0.062 g, 0.58 mmol) under hydrogen atmosphere at RT for 14 h. The reaction mixture was filtered through a celite pad and the filtrate was concentrated in vacuo. The crude product was purified by silica gel chromatography (0-30% EtOAc in hexanes) to provide the title compound as a clear oil. MS (ESI pos. ion) m/z: 325 (M+1).

reactant | ethyl 1-(4-(dimethylamino)phenyl)isoquinoline-2(1H)-carboxylate | 0.24 mmol, 79 mg | CN(C1=CC=C(C=C1)C1N(C=CC2=CC=CC=C12)C(=O)OCC)C | C20H22N2O2
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | Pd/C | 0.58 mmol, 0.062 g | [Pd] | Pd
product | Ethyl 1-(4-(dimethylamino)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | CN(C1=CC=C(C=C1)C1N(CCC2=CC=CC=C12)C(=O)OCC)C | C20H24N2O2
